US04948781
10 g of 2,6-dimethyl-6-nonen-5-ol and 12 7 g of isopropenyl methyl ether are mixed and treated with 3 drops of concentrated hydrochloric acid. The mixture is subsequently held at reflux temperature for 15 hours, cooled, taken up in hexane and washed neutral with sodium hydrogen carbonate solution and water. After distillation of the solvent, there are obtained 14.1 g of crude 5-[1'-methoxy-1'-methyl-ethoxy]-2,6-dimethyl-6-nonene which are rectified in a water-jet pump vacuum (boiling point 109° C./12 Torr, nD20 =1.4379). The mixed acetal decomposes when subjected to gas chromatography and must therefore be tested for purity by thin-layer chromatography (elution agent: hexane/pentane/chloroform/ethyl acetate in the ratio 25:25:50:5); Rf =0.60.

reactant | 2,6-dimethyl-6-nonen-5-ol | 10 g | CC(C)CCC(C(=CCC)C)O | C11H22O
reactant | isopropenyl methyl ether | COC(=C)C | C4H8O
catalyst | hydrochloric acid | 3 drops | Cl | ClH
solvent | hexane | CCCCCC | C6H14
product | 5-[1'-methoxy-1'-methyl-ethoxy]-2,6-dimethyl-6-nonene | 14.1 g | COC(C)(OC(CCC(C)C)C(=CCC)C)C | C15H30O2
